### PR TITLE
Erdős Problem 218

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/218.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+The set of indices $n$ for which a prime gap is preceeded by a larger or equal prime gap has a
+natural density of $\frac 1 2$.
+-/
+@[category research open, AMS 11]
+theorem erdos_218.variant : {n | primeGap (n + 1) ≤ primeGap n}.HasDensity <| 1 / 2 := by
+  sorry
+
+/--
+There are infintely many indices $n$ such that the prime gap at $n$ is equal to the prime gap
+at $n+1$. This is equivalent to the existence of infinetly many arithmetic progressions of
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/218.lean]:
```suggestion
at $n+1$. This is equivalent to the existence of infinitely many arithmetic progressions of
```

File: FormalConjectures/ErdosProblems/218.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+@[category research open, AMS 11]
+theorem erdos_218 : {n | primeGap n ≤ primeGap (n + 1)}.HasDensity <| 1 / 2 := by
+  sorry
+
+/--
+The set of indices $n$ for which a prime gap is preceeded by a larger or equal prime gap has a
+natural density of $\frac 1 2$.
+-/
+@[category research open, AMS 11]
+theorem erdos_218.variant : {n | primeGap (n + 1) ≤ primeGap n}.HasDensity <| 1 / 2 := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/218.lean]: I'm wondering whether `erdos_218` and `erdos_218.variant` should be merged into the same problem? If we keep them separate then I'd use the variant naming style for both, e.g., `erdos_218.variants.le` and `erdos_218.variants.ge` or something, as it seems like they have equal footing in the informal problem.

File: FormalConjectures/ErdosProblems/218.lean [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+  sorry
+
+/--
+There are infintely many indices $n$ such that the prime gap at $n$ is equal to the prime gap
+at $n+1$. This is equivalent to the existence of infinetly many arithmetic progressions of
+length $3$, see `erdos_141.variant.infinite_three`.
+-/
+@[category research open, AMS 11]
+theorem erdos_218.infinite_equal_prime_gap : {n | primeGap n = primeGap (n + 1)}.Infinite := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/218.lean]:
```suggestion
theorem erdos_218.variants.infinite_equal_prime_gap : {n | primeGap n = primeGap (n + 1)}.Infinite := by
```

File: FormalConjectures/ErdosProblems/218.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/218.lean]: done, made them both variants.

File: FormalConjectures/ErdosProblems/218.lean [hunk 4]
```diff
@@ -0,0 +1,53 @@
...
+The prime gap: the difference between the $n+1$-th and $n$-th prime.
+-/
+noncomputable def primeGap (n : ℕ) : ℕ := (n + 1).nth Nat.Prime - n.nth Nat.Prime
+
+/--
+The set of indices $n$ for which a prime gap is followed by a larger or equal prime gap has a
+natural density of $\frac 1 2$.
+-/
+@[category research open, AMS 11]
+theorem erdos_218.variant.le : {n | primeGap n ≤ primeGap (n + 1)}.HasDensity <| 1 / 2 := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/218.lean]: Not sure this really matters much but it looks like the prevalent style in the repo is plural
```suggestion
theorem erdos_218.variants.le : {n | primeGap n ≤ primeGap (n + 1)}.HasDensity <| 1 / 2 := by
```

File: FormalConjectures/ErdosProblems/218.lean [hunk 5]
```diff
@@ -0,0 +1,53 @@
...
+  sorry
+
+/--
+The set of indices $n$ for which a prime gap is preceeded by a larger or equal prime gap has a
+natural density of $\frac 1 2$.
+-/
+@[category research open, AMS 11]
+theorem erdos_218.variant.ge : {n | primeGap (n + 1) ≤ primeGap n}.HasDensity <| 1 / 2 := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/218.lean]:
```suggestion
theorem erdos_218.variants.ge : {n | primeGap (n + 1) ≤ primeGap n}.HasDensity <| 1 / 2 := by
```

**Review by smmercuri — APPROVED** [review]
